US06740371B1
Using 3,5-dinitrobenzoyl chloride (60.6 g, 263.0 mmol) and hexadecyl alcohol (63.9 g, 263.9 mmol), n-hexadecyl-3,5-dinitrobenzoate was obtained (103.2 g, yield: 90%) in the same manner as in Example 1.

reactant | 3,5-dinitrobenzoyl chloride | 263.0 mmol, 60.6 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
reactant | hexadecyl alcohol | 263.9 mmol, 63.9 g | C(CCCCCCCCCCCCCCC)O | C16H34O
product | n-hexadecyl-3,5-dinitrobenzoate | yield: 90% | C(CCCCCCCCCCCCCCC)OC(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C23H36N2O6
